US06294547B1
Synthesis of 2-t-butoxycarbonyl-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine-10-carboxamide
Isatin (3.99 g, 20 mmol) and 1-t-butoxy-carbonyl-4-piperidone (2.94 g, 20 mmol) were dissolved in N,N-dimethylformamide (20 ml), followed by adding thereto ammonium acetate (4.63 g, 60 mmol), and the resulting mixture was stirred at 120° C. for 3 hours. The solvent was removed by concentration under reduced pressure, and acetone (20 ml) and water (20 ml) were added to the residue. The resulting slurry was filtered and the solid thus obtained was purified by suspension in ethyl acetate/hexane to obtain the desired compound (3.34 g, 50%) as a light-brownish-white solid.

reactant | Isatin | 20 mmol, 3.99 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | 1-t-butoxy-carbonyl-4-piperidone | 20 mmol, 2.94 g | C(C)(C)(C)ON1C(CC(CC1)=O)=C=O | C10H15NO3
reactant | ammonium acetate | 60 mmol, 4.63 g | C(C)(=O)[O-].[NH4+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2-t-butoxycarbonyl-1,2,3,4-tetrahydro-benzo[b][1,6]-naphthyridine-10-carboxamide | 3.34 g, 50% | C(C)(C)(C)OC(=O)N1CC=2C(=C3C(=NC2CC1)C=CC=C3)C(=O)N | C18H21N3O3
